US04188396
3 g of N-acetyl-4-(4-acetyl-phenyl)-piperidine is added at -15°, with stirring, to 20 ml of fuming nitric acid, and the reaction mixture is subsequently stirred for 30 minutes at a temperature of between 0° and 15°. It is then poured onto 100 g of ice; the pH value is adjusted to 14 with concentrated sodium hydroxide solution, and extraction is performed three times with 50 ml of methylene chloride each time. The organic phases are combined, washed until neutral, dried over sodium sulphate and concentrated in vacuo. The residue is dissolved in ether/ethanol and treated with active charcoal. The crude oily N-acetyl-4-(2-nitro-4-acetyl-phenyl)-piperidine, obtained after filtration and concentration by evaporation, can be further reacted without additional purification.

reactant | N-acetyl-4-(4-acetyl-phenyl)-piperidine | 3 g | C(C)(=O)N1CCC(CC1)C1=CC=C(C=C1)C(C)=O | C15H19NO2
reactant | nitric acid | 20 ml | [N+](=O)(O)[O-] | HNO3
product | N-acetyl-4-(2-nitro-4-acetyl-phenyl)-piperidine | C(C)(=O)N1CCC(CC1)C1=C(C=C(C=C1)C(C)=O)[N+](=O)[O-] | C15H18N2O4
